US07547783B2
Preparation of 2-[1-(2,4,6-trimethylphenylimino)ethyl]-6-[1-(4-eicosanoxy-3,5-diphenylphenylimino)ethyl]pyridine, (D)
2-[1-(2,4,6-trimethylphenylimino)ethyl]-6-acetyl pyridine (3 g, 10.7 mmol), prepared according to the method disclosed in WO02/28805, and 4-eicosanoxy-3,5-diphenylaniline (5.8 g, 10.7 mmol) were dissolved in 200 ml of toluene. To this solution, 4 Å molecular sieves were added. After standing for 1 day the mixture was filtered. The solvent was removed in vacuo. The residue was crystallised from cold ethanol. The product, D, was isolated as a yellow treacle (6.5 g, 8.1 mmol, 76%) after drying at 60° C. in vacuo.

reactant | 2-[1-(2,4,6-trimethylphenylimino)ethyl]-6-acetyl pyridine | 10.7 mmol, 3 g | CC1=C(C(=CC(=C1)C)C)N=C(C)C1=NC(=CC=C1)C(C)=O | C18H20N2O
reactant | 4-eicosanoxy-3,5-diphenylaniline | 10.7 mmol, 5.8 g | C(CCCCCCCCCCCCCCCCCCC)OC1=C(C=C(N)C=C1C1=CC=CC=C1)C1=CC=CC=C1 | C38H55NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[1-(2,4,6-trimethylphenylimino)ethyl]-6-[1-(4-eicosanoxy-3,5-diphenylphenylimino)ethyl]pyridine | CC1=C(C(=CC(=C1)C)C)N=C(C)C1=NC(=CC=C1)C(C)=NC1=CC(=C(C(=C1)C1=CC=CC=C1)OCCCCCCCCCCCCCCCCCCCC)C1=CC=CC=C1 | C56H73N3O
